US08809372B2
To cooled (−78° C.) 4-iodopyridine (270 mg, 1.3 mmol) [Albrecht, et al., US Patent Application Publication No. 2009/0318436] in THF (15 mL) was added slowly 1.6 M n-BuLi in hexane (1.65 mL, 2.6 mmol). Stirring was continued for an additional 30 minutes at the same temperature, followed by the addition of a THF (5 mL) solution of 1-(5-(4-methoxyphenyl)pyridin-2-yl)ethanone (300 mg, 1.3 mmol). After stirring for 2 hours at the same temperature, the reaction mixture was quenched with saturated aqueous NH4Cl solution (10 mL). The aqueous layer was extracted with ethylacetate (2×150 mL). The combined organic layers were washed with brine (20 mL). Finally, the organic phase was dried over Na2SO4 and concentrated under reduced pressure to give crude product. The crude product was purified by flash chromatography (silica gel 60-120μ) using 20% ethyl acetate and hexane as eluent to afford racemic 1-(5-(4-methoxyphenyl)pyridin-2-yl)-1-(pyridin-4-yl)ethanol as an off-white solid (135 mg, 33% yield) in 99.6% HPLC purity. 1H NMR (400 MHz, DMSO-d6): δ 8.74 (d, 1H), 8.45 (dd, 2H), 7.98 (dd, 1H), 7.68 (d, 1H), 7.62 (d, 2H), 7.48 (dd, 2H), 7.02 (d, 2H), 6.15 (s, 1H), 3.78 (s, 3H), 1.88 (s, 3H); LC-MS m/z calculated for [M+H]+ 307.14, found 307.3.

reactant | 4-iodopyridine | 1.3 mmol, 270 mg | IC1=CC=NC=C1 | C5H4IN
reactant | n-BuLi | 1.6 M | [Li]CCCC
reactant | hexane | 2.6 mmol, 1.65 mL | CCCCCC | C6H14
reactant | 1-(5-(4-methoxyphenyl)pyridin-2-yl)ethanone | 1.3 mmol, 300 mg | COC1=CC=C(C=C1)C=1C=CC(=NC1)C(C)=O | C14H13NO2
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | racemic 1-(5-(4-methoxyphenyl)pyridin-2-yl)-1-(pyridin-4-yl)ethanol | 135 mg, 33% yield | COC1=CC=C(C=C1)C=1C=CC(=NC1)C(C)(O)C1=CC=NC=C1 | C19H18N2O2
